US07855290B2
N-(4-Fluorophenyl)-N′-(2-fluoro-4-hydroxyphenyl)cyclopropane-1,1-dicarboxamide
To a solution of 1-(4-fluorophenylcarbamoyl)cyclopropanecarboxylic acid (1.02 g) in N,N-dimethylformamide (5.0 ml) were added triethylamine (1.28 ml) and benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (2.03 g), followed by stirring at room temperature for 5 min. To this was added 4-amino-3-fluorophenol hydrochloride (500 mg), followed by stirring at room temperature for 3 days. The reaction mixture was partitioned between ethyl acetate and a 1N aqueous solution of sodium hydroxide. The organic layer was washed with a 1N aqueous solution of sodium hydroxide. To the aqueous layer was added 5N hydrochloric acid to make it acidic, this was extracted with ethyl acetate. The organic layer was washed with brine and dried over anhydrous sodium sulfate. The solvent was removed and the residue was purified by silica gel column chromatography (eluent; heptane:ethyl acetate=2:3 to 1:2). Fractions containing the target compound were concentrated under reduced pressure to provide the titled compound as a pale red solid (395 mg, 39%).

reactant | 1-(4-fluorophenylcarbamoyl)cyclopropanecarboxylic acid | 1.02 g | FC1=CC=C(C=C1)NC(=O)C1(CC1)C(=O)O | C11H10FNO3
reactant | triethylamine | 1.28 ml | C(C)N(CC)CC | C6H15N
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 2.03 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 4-amino-3-fluorophenol hydrochloride | 500 mg | Cl.NC1=C(C=C(C=C1)O)F
solvent | N,N-dimethylformamide | 5.0 ml | CN(C=O)C | C3H7NO
product | N-(4-Fluorophenyl)-N′-(2-fluoro-4-hydroxyphenyl)cyclopropane-1,1-dicarboxamide | 395 mg, 39% | FC1=CC=C(C=C1)NC(=O)C1(CC1)C(=O)NC1=C(C=C(C=C1)O)F | C17H14F2N2O3
